US07910592B2
Iodine (1.24 g, 4.90 mmol) and silver sulfate (1.53 g, 4.90 mmol) were added successively to a stirred solution of 1-tert-butyl-2-fluoro-4-methoxybenzene and 3-fluororanisole (0.755 g, 4.90 mmol) in EtOH (38.3 mL) at room temperature under N2. The mixture was stirred at room temperature for 4 h, then filtered through a plug of Celite. The mixture was partitioned between 50% saturated Na2SO3 and Et2O. The aqueous layer was separated and extracted with Et2O (×2). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo to remove volatile byproducts and afford 1-tert-butyl-2-fluoro-5-iodo-4-methoxybenzene. Rf=0.34 (100% hexanes). 1H NMR (600 MHz, CDCl3): δ 7.63 (d, J=9.0 Hz, 1H); 6.53 (d, J=13.8 Hz, 1H); 3.84 (s, 3H); 1.33 (s, 9H).

reactant | Iodine | 4.90 mmol, 1.24 g | II | I2
reactant | 1-tert-butyl-2-fluoro-4-methoxybenzene | C(C)(C)(C)C1=C(C=C(C=C1)OC)F | C11H15FO
solvent | EtOH | 38.3 mL | CCO | C2H6O
catalyst | silver sulfate | 4.90 mmol, 1.53 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 1-tert-butyl-2-fluoro-5-iodo-4-methoxybenzene | C(C)(C)(C)C1=C(C=C(C(=C1)I)OC)F | C11H14FIO
